Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]1([H:7])([H:8])[C:2]([H:10])([H:11])[C:3]1([O:4][H:13])[C:5](=[O:6])[H:14].[H:9][H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],44.6388752690086
[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[N+:3][O-:4])([H:8])([H:9])[H:10].[C:5]([N:6]([H:11])[H:12])#[C:7][H:13],81.504665221608
[H:8][H:12].[N-:1]=[C:2]1[O:3][C:4]([H:9])([H:10])[C@@:5]12[C+:6]([H:11])[N:7]2[H:13]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],33.217447458357995
[O:1]([C:2]([C:3](=[O:4])[C:6](=[C:5])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7],11.088575944761288
[C:1]([C:2]1=[C:3]([H:11])[C:5]([N:4]([N:6]([H:13])[H:14])[H:12])=[C:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([N:6]([H:13])[H:14])[c:7]1[H:15])([H:8])([H:9])[H:10],59.25505869276071
[C:3](=[O:4])([C:5]#[N:6])[H:10].[H:7][H:11].[O:1]=[C:2]([H:8])[H:9]>>[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7],45.60997057388529
[O:1]([C:4](=[C:3]=[C:2]([C:5]#[N:6])[H:8])[H:9])[H:7]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7],71.08464688879731
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:17].[O:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6](=[O:7])[H:18])([H:15])[H:16])[H:11])[H:19],70.9225432303923
[C:1]([C@:2]1([O:5][H:13])[C:3]([H:11])([H:12])[C@@:4]12[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10],71.13390409007111
[C:1]([H:6])([H:7])([H:8])[H:12].[C:2]1([H:9])([H:10])/[C:3](=[N:5]/[H:11])[O:4]1>>[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],38.062395119323
[C:1]([C:2](=[O:3])[C:4]([C:6](=[C:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],19.078980012707618
[C:1](=[O:2])([H:8])[H:10].[C:3](=[O:4])=[C:5]([H:11])[H:12].[C:6](=[O:7])([H:9])[H:13]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],21.672890521869903
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[C-:3]1=[O+:6][C:5]([H:10])([H:11])[C:4]1([H:8])[H:9].[N:1](=[C:2])[H:7],68.7918843265379
[N:1]([C@:2]1([O:3][H:10])[C:4]([H:8])([H:9])[O:5]1)([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7],8.2120051623764
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2][C:3]([H:11])([H:12])[H:13])([H:7])([H:8])[H:9].[C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:10])([H:14])[H:15],84.4626014751212
[C-:5]#[O+:6].[C:1]([C:2]1=[C:3]([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9].[H:10][H:14]>>[C:1]([C:2]1([C:5](=[O:6])[H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],24.270529803361498
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[C:2]1([H:9])([H:10])[C@@:3]2([H:11])[C@@:4]3([H:12])[C@:5]1([H:13])[C@:6]2([H:15])[O:7]3.[O:1]([H:8])[H:14],80.169730949792
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1](/[C:2](=[N:3]/[C-:4]([N+:5]#[N:6])[H:8])[H:9])[H:7],63.556280031409294
[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C@:3]1([O:4][H:7])[C:5](=[O:6])[H:10],49.6827579470175
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]#[N:5])([H:12])[C:6]1=[C:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],72.1252240424621
[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]1=[C:4]([H:14])[C:5]([H:12])([H:13])[C:6]1([H:15])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9],92.4236406841838
[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[n:7]1)([H:8])[H:9]>>[N:1]([C@@:3]1([H:10])[C-:2]=[N+:7]=[C:5]([O:6][H:12])[N:4]1[H:11])([H:8])[H:9],83.1072511243283
[C:1]1([H:7])=[N+:6]=[C-:5][C@@:4]2([H:13])[C@:2]1([H:10])[C:3]2([H:11])[H:12].[H:8][H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[N:6])[H:13])([H:7])([H:8])[H:9],24.056486888452014
[C:1]([C@@:2]([C:3]([C:5](=[C:4])[H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],13.509352014203806
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:6]([C:5]([H:12])([H:13])[H:14])=[O:7])[H:11])=[O:4])([H:8])([H:9])[H:10],59.413646075661106
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1]#[C:2][C:6]#[N:7].[O:3]=[C:4]([O:5][H:8])[H:9],17.5454480366358
